US07176216B2
N-(7-Bromo-2-ethylpyrazolo[1,5-a]pyridin-3-yl)-N-cyclopropylmethylamine
To a solution of crude tert-butyl N-(7-bromo-2-ethylpyrazolo[1,5-a]pyridin-3-yl)-N-cyclopropylmethylcarbamate dissolved in ethyl acetate (10 mL) was added 4N hydrochloric acid/ethyl acetate (30 mL), and the reaction mixture was stirred for 2 hours at room temperature. After completion of the reaction, a 5N aqueous sodium hydroxide solution was added to the reaction mixture while cooling with ice for neutralization. The reaction mixture was extracted with ethyl acetate, and after washing the organic extract with water and brine, it was dried over anhydrous magnesium sulfate and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (20 g) and the title compound (479 mg) was obtained as a yellow oil from the ethyl acetate:n-hexane (1:3) fraction.

reactant | tert-butyl N-(7-bromo-2-ethylpyrazolo[1,5-a]pyridin-3-yl)-N-cyclopropylmethylcarbamate | BrC1=CC=CC=2N1N=C(C2N(C(OC(C)(C)C)=O)CC2CC2)CC | C18H24BrN3O2
reactant | hydrochloric acid ethyl acetate | 4N, 30 mL | Cl.C(C)(=O)OCC
reactant | sodium hydroxide | 5N | [OH-].[Na+]
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | N-(7-Bromo-2-ethylpyrazolo[1,5-a]pyridin-3-yl)-N-cyclopropylmethylamine | 479 mg | BrC1=CC=CC=2N1N=C(C2NCC2CC2)CC | C13H16BrN3
